US07414155B2
A 300 ml Schlenk vessel under nitrogen atmosphere is charged with 9.44 g (40 mmol) of 1,2-dibromobenzene, 22.4 g (200 mmol) of 1,4-diazabicyclo[2,2,2]octane, 13 g (91 mmol) of 9-phosphabicyclo[3.3.1]nonane, 2.32 g (2 mmol) of tetrakis(triphenylphosphine)palladium(0) and 150 ml of xylene (solvent). The mixture is stirred overnight at 140° C., during which period a precipitate of 1,4-diazabicyclo[2,2,2]octane hydrogenbromide is formed. After cooling to 100° C. the mixture is filtered hot. Upon cooling of the xylene solution, crystals of 1,2-bis-([3.3.1]-9-phosphabicyclononane) benzene are formed. The liquid is decanted, and the product recrystallized from 100 ml of hot toluene. 1,2-bis(9-phosphabicyclo[3.3.1]nonyl) benzene is obtained in a yield of 7.1 g (20 mmol, 50%), pure according to 31p and 1H NMR, 31P NMR (CD2Cl2): −16.6 ppm 1H NMR (CD2Cl2): 7.15 ppm (m, 2H), 7.10 ppm (m, 2H), 2.63 ppm (s, 4H), 12-2.2 ppm (m, 24H)

reactant | 1,2-dibromobenzene | 40 mmol, 9.44 g | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | 1,4-diazabicyclo[2,2,2]octane | 200 mmol, 22.4 g | N12CCN(CC1)CC2 | C6H12N2
reactant | 9-phosphabicyclo[3.3.1]nonane | 91 mmol, 13 g | C12CCCC(CCC1)P2 | C8H15P
reactant | 1,4-diazabicyclo[2,2,2]octane hydrogenbromide | Br.N12CCN(CC1)CC2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2 mmol, 2.32 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1,2-bis(9-phosphabicyclo[3.3.1]nonyl) benzene | C12(CCCC(CCC1)P2)C2=C(C=CC=C2)C21CCCC(CCC2)P1 | C22H32P2
